US09328106B2
To a solution of 2-methyl-4-nitro-pyrazole-3-carbaldehyde (487 mg, 3.14 mmol) in CDCl3 (12 mL) was added [(Z)-1-[(E)-2-methoxy-1-methyl-vinyl]prop-1-enoxy]-trimethylsilane (944 mg, 4.71 mmol) and Resolve-Al™ EuFOD (127 mg, 0.31 mmol). The reaction mixture was heated at 80° C. in a sealed tube for 18 hr. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 3,5-dimethyl-2-(2-methyl-4-nitro-pyrazol-3-yl)-2,3-dihydropyran-4-one as a mixture of diastereomers as a yellow oil (829 mg). A solution of this oil (829 mg, 3.14 mmol) and cerium(III) chloride heptahydrate (4.8 g, 12.56 mmol) in MeOH (10 mL) was stirred at room temperature for 15 min. After cooling to 0° C., sodium borohydride (143 mg, 3.8 mmol) was added portionwise and the mixture was stirred at 0° C. for 1 hr. The reaction was quenched with 1 M aqueous HCl (10 mL) and extracted with EtOAc (50 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in MeOH (40 mL) and treated with tosic acid monohydrate (87 mg). The mixture was heated at reflux for 18 hr and concentrated under reduced pressure. The residue was dissolved in DCM (30 mL) and the organic layer was washed with aqueous NaHCO3 (2×20 mL), washed with brine (20 mL), passed through a phase separation cartridge and concentrated under reduced pressure to give 5-(6-methoxy-3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole as a yellow oil (558 mg, 51% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.15-7.98 (m, 1H), 5.90 (d, J=3.6 Hz) and 5.78 (d, J=3.2 Hz) (1H), 5.72 (d, J=5.6 Hz) and 5.64 (d, J=10.8 Hz) (1H), 4.80 and 4.76 (2s, 1H), 4.16 and 4.06 (2s, 3H), 3.42 and 3.40 (2s, 3H), 2.65-2.58 (m, 1H), 1.77 and 1.65 (2s, 3H), 0.90 (d, J=7.2 Hz) and 0.83 (d, J=7.2 Hz) (3H).

reactant | 2-methyl-4-nitro-pyrazole-3-carbaldehyde | 3.14 mmol, 487 mg | CN1N=CC(=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | [(Z)-1-[(E)-2-methoxy-1-methyl-vinyl]prop-1-enoxy]-trimethylsilane | 4.71 mmol, 944 mg | CO/C=C(\C)/C(=C/C)/O[Si](C)(C)C | C10H20O2Si
reactant | Resolve-Al | CC(C)(C)C(=O)CC(=O)C(C)(C)C.CC(C)(C)C(=O)CC(=O)C(C)(C)C.CC(C)(C)C(=O)CC(=O)C(C)(C)C.[Eu]
product | 3,5-dimethyl-2-(2-methyl-4-nitro-pyrazol-3-yl)-2,3-dihydropyran-4-one | CC1C(OC=C(C1=O)C)C=1N(N=CC1[N+](=O)[O-])C | C11H13N3O4
